US06642389B2
d] [rac]-3-(4-Benzyloxy-benzofuran-7-yl)-2-ethoxy-propionic acid methyl ester
Magnesium turnings (0.5 g, 20.6 mmol) were added to a stirred solution of 3-(4-benzyloxy-benzofuran-7-yl)-2Z-ethoxy-acrylic acid ethyl ester (0.8 g, 2.18 mmol) in methanol (26 ml) and THF (13 ml) at ambient temperature. The suspension was warmed to 40° C. until evolution of hydrogen commenced. Then, the heating bath was replaced by a water bath, additional magnesium turnings (1 g, 41.2 mmol) were added and stirring of the reaction mixture was continued for 12 h. The suspension was cooled to 0° C., then 25% aqueous hydrochloric acid was added till all the solid had dissolved. The mixture was extracted twice with ethyl acetate and the combined ethyl acetate solutions were washed three times with water and dried over sodium sulfate. The solvent was evaporated to afford the title compound (0.77 g, 2.16 mmol, 99%) which was used in the next stage without further purification.

reactant | Magnesium | 20.6 mmol, 0.5 g | [Mg] | Mg
reactant | 3-(4-benzyloxy-benzofuran-7-yl)-2Z-ethoxy-acrylic acid ethyl ester | 2.18 mmol, 0.8 g | C(C)OC(/C(=C/C1=CC=C(C=2C=COC21)OCC2=CC=CC=C2)/OCC)=O | C22H22O5
reactant | hydrogen | [H][H] | H2
reactant | magnesium | 41.2 mmol, 1 g | [Mg] | Mg
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 26 ml | CO | CH4O
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | [rac]-3-(4-Benzyloxy-benzofuran-7-yl)-2-ethoxy-propionic acid methyl ester | 2.16 mmol, 0.77 g, 99% | COC(C(CC1=CC=C(C=2C=COC21)OCC2=CC=CC=C2)OCC)=O | C21H22O5
